US03976639
A solution containing 11.83 g. of trans-β-dimethylamino-4,5 -methylenedioxy-2-nitrostyrene in 250 ml. of benzene was shaken with 1 teaspoonful of Raney nickel under an initial hydrogen pressure of 3.5 atm. until hydrogen absorption ceased. The catalyst was removed by filtration and washed several times with benzene. The filtrate and washings were washed with 1M sulfuric acid (2 × 100 ml.), 100 ml. of water, and 100 ml. of 10% sodium bicarbonate. The combined organic phases were dried (Na2SO4), filtered and evaporated to give 5.52 g. of a brown solid. A solution of the residue in benzene was percolated through a column of alumina. The eluate, after evaporation of the solvent, was sublimed at 110°/0.2 mm. to give 5.2 g. of a white solid which, upon crystallization from methylene chloride-hexane, yielded 4.50 g (50%) of 5,6-methylenedioxyindole as white needles having a melting point of 109.5°-110.5°.

reactant | trans-β-dimethylamino-4,5 -methylenedioxy-2-nitrostyrene | CN(\C=C\C1=C(C=C2C(=C1)OCO2)[N+](=O)[O-])C | C11H12N2O4
catalyst | Raney nickel | [Ni] | Ni
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5,6-methylenedioxyindole | 4.50 g, 50% | C1OC=2C=C3C=CNC3=CC2O1 | C9H7NO2
